US04009175
In the manner given in Example 16, a solution of N,N-diisopropylhydroxylamine in dimethylformamide is treated with sodium hydride suspended in mineral oil, and the mixture is treated with 8-nitro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine to give 8-nitro-1-[(diisopropylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, N1 -oxide.

reactant | N,N-diisopropylhydroxylamine | C(C)(C)N(O)C(C)C | C6H15NO
reactant | sodium hydride | [H-].[Na+]
reactant | 8-nitro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl2N5O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-nitro-1-[(diisopropylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C(C)C)C(C)C)C3=C(C=CC=C3)Cl)C1 | C23H25ClN6O2
